Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
melena
 
Major Surgical or Invasive Procedure:
EGD
 
History of Present Illness:
This is a ___ male with Hep C cirrhosis Meld 10, Childs A  who 
presents with one day of melena and hypotension. He was seen in 
clinic on the day of admission for follow up of his HCV.  He 
reported black tarry stool earlier in the day. Rectal shows dark 
brown stool in vault, guaiac +. BP 100/70. He was sent to the 
emergency room for further evaluation.  He's on Lactulose and 
rifaximin for hepatic encephalopathy. Variceal status: EGD in 
___ showed possible small esophageal varix. ___ in ___ showed 
rectal varix.  Not taking nadalol on admission. In the ED, 
relative hypotension managed with 1 unit RBC's and 2L NS. 
Patient was also started on pantoprazole, octreotide and 
ceftriaxone (day #1: ___. Patient did not show signs of 
hepatic encephalopathy or ascites on admission. 

 
Past Medical History:
-bipolar disorder  
-attention deficit disorder  
-Insomnia  
-hepatitis C with cirrhosis  
-tobacco abuse  
-COPD  
-gastroesophageal reflux with ___ esophagus  

 
Social History:
___
Family History:
No known family history of liver disease
 
Physical Exam:
ADMISSION EXAM:
Vitals:  98.0, BP 145/91, HR 77, RR 18, O2 97%RA 
GENERAL: NAD, resting in bed; large abdomen and fairly skinny 
man  
HEENT: anicteric sclera, pink conjunctiva, MMM, no upper row of 
teeth  
NECK: no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, liver edge appreciated 3cm below intercostal 
margin; somewhat tender to deep palpation in RUQ, no 
splenomegaly appreciated. No caput medusae.  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose. Patient declined to remove socks for 
foot exam; bandage appreciated under R sock  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN nerve II-X intact. No focal deficits. No asterixis.  
SKIN: warm and well perfused, excoriations on shins of legs. 
Spider angioma on back. Small erythematous macules on chest. 

DISCHARGE EXAM
VS: 98.4 98.6 136/79 (121-165/79-101) ___ 18 95-100% RA
GENERAL: NAD, resting in bed; large abdomen and fairly skinny 
man  
HEENT: anicteric sclera, pink conjunctiva, MMM, no upper row of 
teeth  
NECK: no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, liver edge appreciated 3cm below intercostal 
margin; somewhat tender to deep palpation in RUQ, no 
splenomegaly appreciated. No caput medusae.  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose. Patient declined to remove socks for 
foot exam; bandage appreciated under R sock  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN nerve II-X intact. No focal deficits. No asterixis.  
SKIN: warm and well perfused, excoriations on shins of legs. 
Spider angioma on back. Small erythematous macules on chest. 

 
Pertinent Results:
ADMISSION LABORATORY STUDIES

___ 01:15PM BLOOD WBC-3.6* RBC-3.26* Hgb-10.3* Hct-29.8* 
MCV-91 MCH-31.6 MCHC-34.6 RDW-16.4* RDWSD-54.9* Plt Ct-74*
___ 01:15PM BLOOD Neuts-46.1 ___ Monos-13.2* 
Eos-2.3 Baso-0.6 Im ___ AbsNeut-1.64 AbsLymp-1.33 
AbsMono-0.47 AbsEos-0.08 AbsBaso-0.02
___ 01:15PM BLOOD ___ PTT-33.8 ___
___ 01:15PM BLOOD Glucose-74 UreaN-16 Creat-0.8 Na-138 
K-4.4 Cl-108 HCO3-23 AnGap-11
___ 01:15PM BLOOD ALT-95* AST-114* AlkPhos-81 TotBili-0.9
___ 01:15PM BLOOD Lipase-68*
___ 01:15PM BLOOD proBNP-35
___ 01:15PM BLOOD Albumin-3.1*
___ 01:19PM BLOOD Lactate-1.1

MICROBIOLOGY
BLOOD CULTURES: NO GROWTH

RADIOLOGY
CXR:  There is no focal consolidation, effusion, or 
pneumothorax. The 
cardiomediastinal silhouette is normal. Imaged osseous 
structures are intact.  No free air below the right 
hemidiaphragm is seen. 

RUQ U/S: 
1. Cirrhotic liver with 2 discrete hypoechoic lesions, 
indeterminate, and require MRI to further assess. 
2. Reversal of flow in the main portal vein. 
3. Splenomegaly. 
4. No ascites. 
5. Pancreas not visualized. 

EGD ___:
Normal mucosa in the duodenum
Mutliple linear erosions seen in the distal esophagues without 
bleeding. One chord of grade I varices were noted without high 
risk stigmata. irregular z line noted bx were not obtain given 
recent bleed
Erythemia petchia in the antrum consistant with GAVE. Mosaic 
apearance in the body and fundas consistant with portal 
hypertensive gastropathy. Medium sized gastric varices were 
noted in the fundus without stigmata of bleeding. Moderate 
amount of food noted in the body of the stomach.
Otherwise normal EGD to third part of the duodenum

DISCHARGE LABORATORY STUDIES
___ 09:14AM BLOOD WBC-4.0 RBC-3.55* Hgb-11.0* Hct-33.1* 
MCV-93 MCH-31.0 MCHC-33.2 RDW-16.1* RDWSD-55.1* Plt Ct-68*
___ 09:14AM BLOOD Plt Ct-68*
___ 09:14AM BLOOD ___ PTT-32.5 ___
___ 09:14AM BLOOD Glucose-108* UreaN-14 Creat-0.7 Na-137 
K-3.6 Cl-105 HCO3-20* AnGap-16
___ 09:14AM BLOOD ALT-90* AST-100* LD(LDH)-244 AlkPhos-83 
TotBili-0.7
___ 09:14AM BLOOD Calcium-7.9* Phos-3.6 Mg-1.___ male with Hep C cirrhosis Meld 10, Childs A who presents 
with one day of melena and hypotension.

#GI BLEED: Patient was admitted with one day of melena and 
hypotention.  He has a history of melena most recently around 9 
months ago. Scope in ___ showed possible small esophageal varix 
and gastritis. In the ED, relative hypotension managed with 1 
unit RBC's and 2L NS. He was also started on pantoprazole, 
octreotide gtt, and IV ceftriaxone (day #1= ___.  EGD 
performed on ___ showed multiple linear erosions in the distal 
esophagus without bleeding, one cord of grade 1 non-bleeding 
esophageal varix, irregular z line, GAVE, portal hypertensive 
gastropathy, and medium sized gastric varices without stigmata 
of bleeding. He remained hemodynamically stable during admission 
and did not require any further transfusions.  His H&H was 
stable at discharge.  He was discharged on omeprazole 40 BID of 
for 4 weeks.  He was also discharged on DS Bactrim for 6 days (7 
day total course) for SBP PPx in setting of GI bleed. Cipro was 
not used in light of severe interaction with Seroquel and pt is 
taking very large doses of Seroquel.
 
#Cirrhosis: Elevated transaminases, cirrhosis confirmed by 
biopsy, most likely etiology is chronic HCV infection. Followed 
by the ___. Responded to some anti-TNF alpha therapy in 
the past, but seems that insurance has made drug access 
difficult. Cirrhosis decompensated by hepatic encephalopathy in 
the past and is currently treated through lactulose and 
rifaximin. Patient showed no asterixis at admission, and altered 
level of conciousness difficult to assess without knowing 
baseline. No ascites detected in ED ___ by bedside US. Patient 
continued on Ursodial, Rifaximin, and Lactulose.  

#___ screening: Liver ultrasound showed cirrhotic liver with 2 
discrete hypoechoic lesions, indeterminate. Will require 
outpatient MRI to further assess. 

#Pancytopenia: Patient had a decrease in all three cell lines in 
context of chronic cirrhosis. Reticulocyte count inapropriately 
low, with index of 1.0, demonstrating production problem. 
Chronic low Plt since ___. Cirrhosis is the most likely cause 
of the pancytopenia. Remained stable during admission.
  
#COPD: FEV1/FVC in ___ was 61%. Patient has 40 pack year 
history of smoking. Smokes ~1pack per day. COPD is stable per 
PCP. Taking tiotropium and albuterol at home.  Continued on home 
Tiotropium and Albuterol.  

#GERD: with ___ esophagus. Takes PPI at home. Home 
omeprazole 20mg PO. On discharge, increased to 40mg PO BID for 4 
weeks. 

Transitional issues
1. Pt's omeprazole was swithced to 40 BID of for 4 weeks. 
2. Pt was discharged on DS Bactrim for 6 days for SBP PPx in 
setting of GI bleed. Cipro was not used in light of severe 
interaction with Seroquel and pt is taking very large doses of 
Seroquel. 
3. Liver ultrasound showed cirrhotic liver with 2 discrete 
hypoechoic lesions, indeterminate. Will require MRI to further 
assess. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lactulose 30 mL PO TID 
2. Albuterol Inhaler ___ PUFF IH Q4H-6H:PRN shortness of breath 
3. Cyclobenzaprine ___ mg PO TID:PRN back pain 
4. Gabapentin 600 mg PO TID 
5. Omeprazole 20 mg PO DAILY 
6. QUEtiapine Fumarate 800 mg PO BID 
7. Rifaximin 550 mg PO BID 
8. Tiotropium Bromide 1 CAP IH DAILY 
9. Ursodiol 600 mg PO BID 

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q4H-6H:PRN shortness of breath 
2. Gabapentin 600 mg PO TID 
3. Lactulose 30 mL PO TID 
4. QUEtiapine Fumarate 800 mg PO QHS 
5. Rifaximin 550 mg PO BID 
6. Tiotropium Bromide 1 CAP IH DAILY 
7. Ursodiol 600 mg PO BID 
8. Cyclobenzaprine ___ mg PO TID:PRN back pain 
9. Sulfameth/Trimethoprim DS 1 TAB PO DAILY Duration: 6 Days 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth daily Disp #*6 Tablet Refills:*0
10. Omeprazole 40 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
UGIB
Esophageal varix
Gastric Varix
GAVE
Cirrhosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___, 
You came to us with blood in your stool. Our workup here shows 
you had a varix (exposed, bleeding vessel) in your stomach. You 
also had evidence of engorged vessels in your stomach and a 
varix in your esophagus. You blood levels were lower than 
baseline when you arrived because of the bleed; however, they 
are rising and stable at the time of discharge. Return to the ER 
immediately if you see any large bowel movement with bright red 
blood or black stool. 
 
Followup Instructions:
___